US07323455B2
tert-Butyl-2-cyano-5-(5,5-dimethyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-1H-pyrrole-1-carboxylate
Prepared from tert-butyl-2-(5,5-dimethyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-1H-pyrrole-1-carboxylate and chlorosulfonyl isocyanate generally according to the procedure described in example 1. 1H-NMR (DMSO-d6) δ 10.03 (s, 1H), 7.35 (d, J=1.79 Hz, 1H), 7.31 (d, J=3.8 Hz, 1H), 7.23 (dd, J=1.79, 8.31 Hz, 1H), 7.12 (d, J=8.36 Hz, 1H), 6.44 (d, J=3.81 Hz, 1H), 4.25 (s, 2H), 1.55 (s, 6H), 1.39 (s, 9H).

reactant | tert-butyl-2-(5,5-dimethyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-1H-pyrrole-1-carboxylate | C(C)(C)(C)OC(=O)N1C(=CC=C1)C=1C=CC2=C(C(OCC(N2)=O)(C)C)C1 | C20H24N2O4
reactant | chlorosulfonyl isocyanate | ClS(=O)(=O)N=C=O | CClNO3S
product | tert-Butyl-2-cyano-5-(5,5-dimethyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-1H-pyrrole-1-carboxylate | C(C)(C)(C)OC(=O)N1C(=CC=C1C=1C=CC2=C(C(OCC(N2)=O)(C)C)C1)C#N | C21H23N3O4
